US08486968B2
(e) N-(4-Trifluoromethoxyphenyl)-2-{2,6-dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxamide
A mixture of 2-{2,6-dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid (54 mg, 0.090 mmol), (1-chloro-2-methyl-propenyl)-dimethylamine (0.026 mL, 0.20 mmol) and DCM (2 mL) is stirred for 30 min. This mixture is added to 4-trifluoromethoxyaniline (0.100 mmol) and pyridine (25 μL, 0.32 mmol) in MeCN (1 mL) and it is stirred for 2 h at 40° C. and overnight at 60° C. The mixture is concentrated and the residue is diluted with DMF/water 19/1 (2 mL) and purified via reverse phase HPLC. Yield: 18 mg. HPLC Rt=0.645 min (method G). MS m/z: 760 [M+H]+.

reactant | 2-{2,6-dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid | 0.090 mmol, 54 mg | ClC1=C(C(=CC=C1CNC(C(C)(C)C)=O)Cl)NC1=NC=2C(=NC(=C(C2)C(=O)O)N2CCC(CC2)C(F)(F)F)N1C | C26H29Cl2F3N6O3
reactant | (1-chloro-2-methyl-propenyl)-dimethylamine | 0.20 mmol, 0.026 mL | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | 4-trifluoromethoxyaniline | 0.100 mmol | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | pyridine | 0.32 mmol, 25 μL | N1=CC=CC=C1 | C5H5N
solvent | MeCN | 1 mL | CC#N | C2H3N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Trifluoromethoxyphenyl)-2-{2,6-dichloro-3-[(2,2-dimethyl-propionylamino)-methyl]-phenylamino}-5-[4-trifluoromethyl-piperidinyl]-3-methyl-3H-imidazo[4,5-b]pyridine-6-carboxamide | FC(OC1=CC=C(C=C1)NC(=O)C=1C=C2C(=NC1N1CCC(CC1)C(F)(F)F)N(C(=N2)NC2=C(C(=CC=C2Cl)CNC(C(C)(C)C)=O)Cl)C)(F)F | C33H33Cl2F6N7O3
